US07915300B2
To a solution of 4,4-difluoropiperidine hydrochloride (1 g, 6.3 mmol) in THF (20 mL) was added methylbromoacetate (0.63 mL, 6.6 mmol) and triethylamine (2.65 mL, 19.0 mmol). The reaction was heated at reflux for 4 h. The reaction was diluted with water (50 mL) and the product extracted with ethyl acetate (3×20 mL). The combined organic fractions were washed with brine, dried over magnesium sulphate and concentrated in vacuo to yield (4,4-difluoropiperidin-1-yl)acetic acid methyl ester as a brown oil (1.17 g, 96%). MS 194 (M+H)+. To a solution of (4,4-dfluompiperidin-1-yl)acetic acid methyl ester (1.17 g, 6.1 mmol) in THF (15 mL) at 0° C. was added potion wise lithium aluminium hydride (0.46 g, 12.2 mmol). Once the effervescence had ceased the reaction was heated at 60° C. for 1.5 h. The reaction was quenched with water (10 mL) followed by sodium hydroxide solution (2N, 10 mL) then water (10 mL). The reaction was filtered and the filtrate extracted with ethyl acetate (3×20 mL). The combined organic fractions were washed with brine, dried over magnesium sulphate and concentrated in vacuo to yield 2-(4,4-difluoropiperidin-1-yl)-ethanol as a brown oil (0.99 g, 99%). MS 166 (M+H)+. To a solution of diisopropylazodicarboxylate (0.36 mL, 1.82 mmol) in DCM (20 mL) was added polymer supported triphenylphosphine (728 mg, 2.18 mmol). The reaction was stirred at RT for 10 min. 5-Hydroxybenzofuran-2-carboxylic acid ethyl ester (025 g, 1.21 mmol) and 2-(4,4-difluoropiperidin-1-yl)-ethanol (210 mg, 1.27 mmol) were added and the reaction stirred at RT for 16 h. The reaction was filtered and the filtrate concentrated in vacuo. The product was purified on silica eluting with 50% tert-butyl methyl ether in n-heptane to yield 5-[2-(4,4-difluoropiperidin-1-yl)ethoxy]benzofuran-2-carboxylic acid ethyl ester as a yellow solid (375 mg, 88%). MS 354 (M+H)+. To a solution of 5-[2-(4,4-difluoropiperidin-1-yl)ethoxy]benzofuran-2-carboxylic acid ethyl ester (375 mg, 1.06 mmol) in THF (5 mL) and water (1 mL) was added lithium hydroxide (34 mg, 2.12 mmol). The reaction was stirred at RT for 16 h. The THF was removed in vacuo and the remaining aqueous solution dried overnight in a freeze dryer to yield the crude title compound as a brown solid. MS 326 (M+H. 5.3 min) and used for coupling onto H2N-Leu-P1 without any further purification.

reactant | diisopropylazodicarboxylate | 1.82 mmol, 0.36 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 2.18 mmol, 728 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-Hydroxybenzofuran-2-carboxylic acid ethyl ester | 1.21 mmol | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)O | C11H10O4
reactant | 2-(4,4-difluoropiperidin-1-yl)-ethanol | 1.27 mmol, 210 mg | FC1(CCN(CC1)CCO)F | C7H13F2NO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-[2-(4,4-difluoropiperidin-1-yl)ethoxy]benzofuran-2-carboxylic acid ethyl ester | 375 mg, 88% | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)OCCN2CCC(CC2)(F)F | C18H21F2NO4
